US07253286B2
4-(3-Chloro-4-(((methylamino)carbonyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxylic acid
After adding methanol (14 ml) and a 2N sodium hydroxide aqueous solution (7 ml) to methyl 4-(3-chloro-4-(((methylamino) carbonyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxylate (1.31 g, 3.15 mmol), the mixture was stirred at 60° C. for 30 minutes. The reaction solution was cooled to room temperature, 2N hydrochloric acid was added for neutralization, the methanol was distilled off, and the precipitated white crystals were filtered out, thoroughly washed with water and dried at 60° C. to obtain the title compound (1.26 g, 3.15 mmol, 100%).

reactant | sodium hydroxide | 2N, 7 ml | [OH-].[Na+]
reactant | methyl 4-(3-chloro-4-(((methylamino) carbonyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxylate | 3.15 mmol, 1.31 g | ClC=1C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)OC)OC)C=CC1NC(=O)NC | C20H18ClN3O5
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 14 ml | CO | CH4O
product | 4-(3-Chloro-4-(((methylamino)carbonyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxylic acid | 3.15 mmol, 1.26 g, 100% | ClC=1C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)O)OC)C=CC1NC(=O)NC | C19H16ClN3O5
